US08957070B2
1-(7-Amino-3-methyl-1H-indol-2-yl)propan-1-one
A mixture of 1-(3-methyl-7-nitro-1H-indol-2-yl)propan-1-one (0.29 g), 10% palladium-carbon (50% containing water, 0.03 g), ethanol (4 mL) and tetrahydrofuran (4 mL) was stirred at room temperature overnight under a hydrogen atmosphere. Palladium-carbon was filtered off, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography and the title compound (0.17 g, yield 70%) was obtained as yellow crystals from a fraction eluted with tetrahydrofuran-hexane (1:1, volume ratio). melting point>194° C. (decomposition).

reactant | 1-(3-methyl-7-nitro-1H-indol-2-yl)propan-1-one | 0.29 g | CC1=C(NC2=C(C=CC=C12)[N+](=O)[O-])C(CC)=O | C12H12N2O3
reactant | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.03 g | [C].[Pd]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-(7-Amino-3-methyl-1H-indol-2-yl)propan-1-one | 0.17 g, yield 70% | NC=1C=CC=C2C(=C(NC12)C(CC)=O)C | C12H14N2O
